US04435399
Sodium cyanoborohydride (3.78 g.) was added to a stirred solution of N-(4-hydroxyphenyl)piperazine (5.35 g.) and acetone (8.7 g.) in a mixture of methanol (100 ml) and water (20 ml.). The pH of the resulting solution was adjusted to pH 7.5 by the addition of a few drops of N hydrochloric acid and stirring was continued at room temperature (~20° C.) for a period of 19 hours. Upon completion of this step, further acetone (8.7 g.) and sodium cyanoborohydride (1.89 g.) were added to the mixture and the pH was again adjusted to a value of 7.5. After a further period of stirring at room temperature for eight hours, water (100 ml.) was added to the reaction mixture and the precipitated solid product was subsequently collected by means of suction filtration and thereafter vacuum dried over phosphorous pentoxide to constant weight. Recrystallization of the crude material so obtained from a mixture of ethanol and methanol then gave pure 1-isopropyl-4-(4-hydroxyphenyl)piperazine in the form of a crystalline solid (yield, 4.78 g.), m.p. 244°-246° C. The yield of pure product amounted to 72% of the theoretical value.

reactant | Sodium cyanoborohydride | 3.78 g | C(#N)[BH3-].[Na+]
reactant | N-(4-hydroxyphenyl)piperazine | 5.35 g | OC1=CC=C(C=C1)N1CCNCC1 | C10H14N2O
reactant | acetone | 8.7 g | CC(=O)C | C3H6O
reactant | hydrochloric acid | Cl | ClH
reactant | acetone | 8.7 g | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | 1.89 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 1-isopropyl-4-(4-hydroxyphenyl)piperazine | C(C)(C)N1CCN(CC1)C1=CC=C(C=C1)O | C13H20N2O
